US04051248
C. 8-(1H-Inden-2-ylmethyl)-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one
Crude 8-(1H-inden-2-ylcarbonyl)-1-phenyl-1,3,8-triazaspiro-[4.5]decan-4-one (11.4g) is dissolved in dry pyridine (250 ml), treated with sodium borohydride (6.0g), and the resulting mixture is refluxed for 16 hours under a nitrogen atmosphere. The pyridine solution is cooled, poured into 2 liters of ice water, stirred for 1 hour and the precipitates filtered off. The crude product is dissolved in chloroform and washed with water and saturated sodium bicarbonate solution. Concentration of the dried chloroform solution gives a crude solid which is a mixture of compounds. Column chromatography through silica gel using ethyl acetate followed by high pressure liquid chromatography with 4:1 ethyl acetate/hexane gives 1.3g of the title compound, melting point 184°14 186° C.

reactant | 8-(1H-inden-2-ylcarbonyl)-1-phenyl-1,3,8-triazaspiro-[4.5]decan-4-one | 11.4g | C1C(=CC2=CC=CC=C12)C(=O)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1 | C23H23N3O2
reactant | sodium borohydride | 6.0g | [BH4-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | pyridine | 250 ml | N1=CC=CC=C1 | C5H5N
product | 8-(1H-Inden-2-ylmethyl)-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one | 1.3g | C1C(=CC2=CC=CC=C12)CN1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1 | C23H25N3O
